US05051422
1-Phenyl-4-(phenylmethyl)-2-piperazinemethanamine
In a manner similar to Preparation 2, react 1-phenyl-4-(phenylmethyl)-2-piperazinecarbonitrile (16.6 g, 60 mmol) with lithium aluminum hydride (6.8 g, 180 mmol) to obtain the title compound.

reactant | 1-phenyl-4-(phenylmethyl)-2-piperazinecarbonitrile | 60 mmol, 16.6 g | C1(=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)C#N | C18H19N3
reactant | lithium aluminum hydride | 180 mmol, 6.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 1-Phenyl-4-(phenylmethyl)-2-piperazinemethanamine | C1(=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CN | C18H23N3
